**.subckt inv_weak_pulldown in out Vnb
*.ipin in
*.iopin out
*.ipin Vnb
XM1 net1 in GND GND sky130_fd_pr__nfet_01v8 L=Lmin W=Wmin nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM2 out in VDD VDD sky130_fd_pr__pfet_01v8 L=Lmin W=Wpmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM3 out Vnb net1 GND sky130_fd_pr__nfet_01v8 L=Lnmos W=Wmin nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
**.ends
.GLOBAL VDD
.GLOBAL GND
** flattened .save nodes
.end
